US06610723B2
(5-Bromo-1-methyl-1H-imidazol-2-yl)-methanol
1-Methylimidazole-2-methanol (3.15 g, 28 mmol) (R. J. Sundberg; P. V. Nguyen; Med. Chem. Res. 7, 2, 1997, 123-136) was suspensed in THF (75 ml) at −20° C. and treated slowly (within 30 min) with N-bromosuccinimide (4.9 g, 27 mmol). The reaction mixture was allowed to warm up slowly to room temperature and quenched with saturated aqueous NaHCO3 solution (50 ml). The aqueous layer was extracted 3 times with AcOEt. The combined extracts were washed with saturated aqueous NaHCO3 solution, dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was chromatographed (silica, elution first with AcOEt/hexane 1:1, then with CH2Cl2/MeOH 95:05) to provide the title compound (2.11 g, 67%) as a white solid. MS: m/e=191.2 (M+).

reactant | 1-Methylimidazole-2-methanol | 28 mmol, 3.15 g | CN1C(=NC=C1)CO | C5H8N2O
reactant | N-bromosuccinimide | 27 mmol, 4.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | (5-Bromo-1-methyl-1H-imidazol-2-yl)-methanol | 2.11 g, 67% | BrC1=CN=C(N1C)CO | C5H7BrN2O
